US07238716B2
A mixture of [5-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-3-pyridyl]methanol (1.20 g), thionyl chloride (0.6 mL), tetrahydrofuran (20 mL) and toluene (20 mL) was stirred at room temperature for 2 hrs. The precipitated crystals were collected by filtration and washed with diisopropyl ether to give crude crystals. A mixture of the obtained crystals, methyl 2-(4-hydroxyphenyl)acetate (0.70 g), anhydrous potassium carbonate (0.92 g) and N,N-dimethylformamide (20 mL) was stirred overnight at 80° C. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained residue was subjected to silica gel column chromatography to give methyl 2-[4-[5-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-3-pyridylmethoxy]phenyl]acetate as a pale-yellow oil (1.52 g, 0.84%) from a fraction eluted with ethyl acetate-hexane (1:1, v/v).

reactant | [5-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-3-pyridyl]methanol | 1.20 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=NC1)CO | C17H16N2O3
reactant | thionyl chloride | 0.6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methyl 2-(4-hydroxyphenyl)acetate | 0.70 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | potassium carbonate | 0.92 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | methyl 2-[4-[5-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-3-pyridylmethoxy]phenyl]acetate | 1.52 g, 0.84% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=NC1)COC1=CC=C(C=C1)CC(=O)OC | C26H24N2O5
